US07160902B2
a) N-phenylglycine methyl ester
To a stirred solution of the N-phenylglycine (5.45 g, 36 mmol) in methanol (100 mL) was added hydrogen chloride (50 mL, 4.0 M solution in dioxane, 200 mmol) and the mixture was stirred overnight at rt. The organic solvent was removed under reduced pressure and the residue was dissolved in dichloromethane (100 mL), washed with 1N sodium carbonate (3×50 mL), brine (50 mL), dried over Na2SO4, filtered, concentrated under reduced pressure and finally dried in vacuo to afford 5.85 g (98%) of the title compound. 1H NMR (400 MHz, CDCl3) δ: 7.2 (m, 2H), 6.76 (m, 1H), 6.62 (m, 2H), 4.27 (brs, 1H), 3.93 (d, 2H), 3.78 (s, 3H).

reactant | N-phenylglycine | 36 mmol, 5.45 g | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | hydrogen chloride | 200 mmol, 4.0 M, 50 mL | Cl | ClH
reactant | methanol | 100 mL | CO | CH4O
product | N-phenylglycine methyl ester | 5.85 g, 98% | COC(CNC1=CC=CC=C1)=O | C9H11NO2
